US07915270B2
6-(2-(7-Phenylheptanoyl)oxazol-5-yl)pyrimidine-2,4(1H,3H)-dione
The title compound was prepared from 1-(5-(2,6-dimethoxypyrimidin-4-yl)oxazol-2-yl)-7-phenylheptan-1-one (20 mg, 0.051 mmol) following General Procedure H. Flash chromatography (EtOAc) yielded the title compound as a white solid (16 mg, 90%): 1H NMR (CDCl3/CD3OD, 500 MHz) δ 7.92 (s, 1H), 7.28-7.24 (m, 2H), 7.18-7.15 (m, 3H), 6.19 (s, 1H), 3.06 (t, 2H, J=7.4 Hz), 2.58 (t, 2H, J=7.7 Hz), 1.73 (quintet, 2H, J=7.3 Hz), 1.61 (quintet, 2H, J=7.4 Hz), 1.38-1.36 (m, 4H); 13C NMR (CDCl3, 125 MHz) δ 188.3, 163.8, 158.0, 151.7, 144.9, 142.5, 139.1, 129.8, 128.3, 128.1, 125.5, 98.8, 39.2, 35.7, 31.1, 28.81, 28.78, 23.5; MALDI-FTMS m/z 368.1595 (M+H+, C20H22N3O4, requires 368.1605).

reactant | 1-(5-(2,6-dimethoxypyrimidin-4-yl)oxazol-2-yl)-7-phenylheptan-1-one | 0.051 mmol, 20 mg | COC1=NC(=CC(=N1)C1=CN=C(O1)C(CCCCCCC1=CC=CC=C1)=O)OC | C22H25N3O4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(2-(7-Phenylheptanoyl)oxazol-5-yl)pyrimidine-2,4(1H,3H)-dione | 16 mg, 90% | C1(=CC=CC=C1)CCCCCCC(=O)C=1OC(=CN1)C1=CC(NC(N1)=O)=O | C20H21N3O4
